US05190953
1,3-Piperidinedicarboxylic acid 1-(1,1-dimethylethyl) 3-methyl ester
A cooled (-10° C.) solution of nipecotic acid (24.6 g, 190 mmol) in absolute methanol (200 mL) under a drying tube was treated dropwise with thionyl chloride (28 mL, 380 mmol) at a rate so as to keep the temperature -5° C., then the mixture was refluxed for 6 hours and concentrated in vacuo to a solid under a potassium hydroxide trap. The solid was dissolved in water (150 mL), and the aqueous solution was slowly basified with solid potassium carbonate (50 g), then further saturated with sodium chloride and extracted with methylene chloride (4×100 mL). The combined organic solution was dried (Na2SO4), concentrated in vacuo, redissolved in anhydrous methylene chloride (50 mL), and slowly added to a solution of di-t-butyldicarbonate (35.0 g, 160 mmol) in anhydrous methylene chloride (50 mL) the effervescent solution was stirred for one hour at room temperature, then filtered through Celite and concentrated in vacuo. The residual oil was distilled (bp 121°-124° C. at 0.8 mm) to afford 33.90 g (73%) of color less solid; mp 47.5°-48.5° C.

reactant | nipecotic acid | 190 mmol, 24.6 g | N1CC(C(=O)O)CCC1 | C6H11NO2
reactant | thionyl chloride | 380 mmol, 28 mL | S(=O)(Cl)Cl | Cl2OS
reactant | di-t-butyldicarbonate | 160 mmol, 35.0 g | C(C)(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | methanol | 200 mL | CO | CH4O
solvent | methylene chloride | 50 mL | C(Cl)Cl | CH2Cl2
product | 1,3-Piperidinedicarboxylic acid 1-(1,1-dimethylethyl) 3-methyl ester | COC(=O)C1CN(CCC1)C(=O)OC(C)(C)C | C12H21NO4
